US07838674B2
5.c: 2-(1-tert-Butoxycarbonylamino-cyclopropylmethyl)-8-chloro-4,5-dihydro-2H-1,2,7-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester
8-Chloro-4,5-dihydro-2H-1,2,7-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester (239 mg; 0.9 mmol) in DMF (4 ml) is treated at 50 C with LiOtBu (1N in THF; 0.9 ml; 0.9 mmol) for 10 minutes. (1-tert.-Butoxycarbonylamino-1-methanesulfonyloxymethyl)-cyclo-propane (U.S. Pat. No. 4,622,418) (250 mg; 0.9 mmol) in DMF (1 ml) is added and the mixture heated to 100° C. for 30 minutes. The reaction mixture is evaporated to dryness, taken up in TBME and washed several times with 0.5 N NaOH. The organic phase is dried over Na2SO4 and evaporated to dryness to yield the title compound as yellow crystals. 1H-NMR (400 MHz; DMSO-d6): 8.37 (s, 1H); 7.62 (s, 1H); 7.04 (s, 1H); 4.69 (s, 2H); 4.33 (q, 2H); 3.02 (m, 2H); 2.95 (m, 2H); 1.37 (t, 3H); 1.35 (s, 9H); 0.93 (m, 2H); 0.65 (m, 2H). MS (m/z) ES+: 447 (MH+).

reactant | 8-Chloro-4,5-dihydro-2H-1,2,7-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | 0.9 mmol, 239 mg | C(C)OC(=O)C=1NN=C2C1CCC1=CN=C(C=C21)Cl | C13H12ClN3O2
reactant | LiOtBu | 0.9 mmol, 1N, 0.9 ml | O([Li])C(C)(C)C
reactant | (1-tert.-Butoxycarbonylamino-1-methanesulfonyloxymethyl)-cyclo-propane | C(C)(C)(C)OC(=O)NC(OS(=O)(=O)C)C1CC1 | C10H19NO5S
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(1-tert-Butoxycarbonylamino-cyclopropylmethyl)-8-chloro-4,5-dihydro-2H-1,2,7-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C2C1CCC1=CN=C(C=C21)Cl)CC2(CC2)NC(=O)OC(C)(C)C | C22H27ClN4O4
